US09107916B2
F. methyl (2E)-4-[tert-butyl(dimethyl)silyl]oxy-2-[[2-(4-cyanopyridin-2-yl)hydrazinyl]methylidene]butanoate
Charged methyl (2E)-4-[tert-butyl(dimethyl)silyl]oxy-2-(dimethylaminomethylidene)butanoate (7.33 g, 50%, 12.72 mmol), 2-hydrazinopyridine-4-carbonitrile (1.70 g, 12.72 mmol), acetic acid (10 mL) and ethanol (50 mL) to a flask, the mixture was heated to 90° C. for 30 min, cooled to r.t. and basified with NaHCO3 at 0° C. to pH=8. It was then extracted with ethyl acetate twice, concentrated and purified by silica gel chromatograph (PE/EA=10/1) to give the title compound (3.3 g, 34%). 1H NMR (400 MHz, CDCl3): δ 0.04 (6H, d, J=1.6 Hz), 0.89 (9H, s), 1.96-2.17 (2H, m), 3.59 (1H, q, J=6.4 Hz), 3.69 (2H, d, J=6.0 Hz), 3.74 (3H, s), 6.91-6.92 (1H, m), 7.19 (1H, d, J=6.0 Hz), 7.38 (1H, s), 8.22 (1H, d, J=5.2 Hz), 8.33 (1H, s). [M+H] Calc'd for C18H28N4O3Si, 377. Found, 377.

reactant | methyl (2E)-4-[tert-butyl(dimethyl)silyl]oxy-2-(dimethylaminomethylidene)butanoate | 12.72 mmol, 7.33 g | [Si](C)(C)(C(C)(C)C)OCC\C(\C(=O)OC)=C/N(C)C | C14H29NO3Si
reactant | 2-hydrazinopyridine-4-carbonitrile | 12.72 mmol, 1.70 g | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | methyl (2E)-4-[tert-butyl(dimethyl)silyl]oxy-2-[[2-(4-cyanopyridin-2-yl)hydrazinyl]methylidene]butanoate | 3.3 g, 34% | [Si](C)(C)(C(C)(C)C)OCC\C(\C(=O)OC)=C/NNC1=NC=CC(=C1)C#N | C18H28N4O3Si
